US08710046B2
To a stirred solution of methyl 1H-indole-7-carboxylate (3.3 g, 18.8 mmol) in DMSO (18 mL) was added potassium tert-butoxide (2.1 g, 18.8 mmol) in portions. After stirring at room temperature for 1 h, a solution of 3-bromo-1,1-dimethoxypropane (10 g, 54.6 mmol) and potassium iodide (188 mg, 1.1 mmol) in DMSO (15 mL) was added and the mixture was stirred for 15 h. The reaction was quenched with saturated aqueous ammonium chloride and adjusted to pH 6. The aqueous phase was extracted with ethyl acetate (3×) and the combined extracts were washed with saturated aqueous sodium bicarbonate and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude material was purified by column chromatography (silica gel, 90:10 hexanes/ethyl acetate) to give methyl 1-(3,3-dimethoxypropyl)-1H-indole-7-carboxylate (4.8 g, 92%) as a light yellow oil: 1H NMR (500 MHz, CDCl3) δ 7.79 (d, J=7.5 Hz, 1H), 7.68 (d, J=7.5 Hz, 1H), 7.12 (d, J=3.0 Hz, 1H), 7.11 (t, J=7.5 Hz, 1H), 6.56 (d, J=3.5 Hz, 1H), 4.49 (t, J=7.0 Hz, 2H), 4.09 (t, J=6.0 Hz, 1H), 3.97 (s, 3H), 3.25 (s, 6H), 1.97 (q, J=6.0 Hz, 2H).

reactant | methyl 1H-indole-7-carboxylate | 18.8 mmol, 3.3 g | N1C=CC2=CC=CC(=C12)C(=O)OC | C10H9NO2
reactant | potassium tert-butoxide | 18.8 mmol, 2.1 g | CC(C)([O-])C.[K+]
reactant | 3-bromo-1,1-dimethoxypropane | 54.6 mmol, 10 g | BrCCC(OC)OC | C5H11BrO2
solvent | DMSO | 18 mL | CS(=O)C | C2H6OS
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
catalyst | potassium iodide | 1.1 mmol, 188 mg | [I-].[K+]
product | methyl 1-(3,3-dimethoxypropyl)-1H-indole-7-carboxylate | 4.8 g, 92% | COC(CCN1C=CC2=CC=CC(=C12)C(=O)OC)OC | C15H19NO4
